US06150373
A solution of 1.7 g (8.3 mmol) of N-[2-(3-aminophenyl)-1,1-dimethyl-ethyl]-acetamide in 20 ml of ethylene glycol was treated with 3 g (75 mmol) of sodium hydroxide and the mixture heated at 195° C. for 20 hours. The mixture was cooled and added to 150 ml of 1M aqueous sodium hydroxide saturated with sodium chloride. The product was extracted with diethyl ether (3×100 ml). The combined organic phases were dried over magnesium sulfate, filtered and evaporated to give 1.2 g (88%) of 3-(2-amino-2-methyl-propyl)-aniline as a colorless oil. [Mass spectrum (ESI) M+CH3CN+ =206].

reactant | N-[2-(3-aminophenyl)-1,1-dimethyl-ethyl]-acetamide | 8.3 mmol, 1.7 g | NC=1C=C(C=CC1)CC(C)(C)NC(C)=O | C12H18N2O
reactant | sodium hydroxide | 75 mmol, 3 g | [OH-].[Na+]
reactant | sodium hydroxide | 1M, 150 ml | [OH-].[Na+]
reactant | sodium chloride | [Cl-].[Na+]
solvent | ethylene glycol | 20 ml | C(CO)O | C2H6O2
product | 3-(2-amino-2-methyl-propyl)-aniline | 1.2 g, 88% | NC(CC=1C=C(N)C=CC1)(C)C | C10H16N2
